US08975277B2
4-(5-Chloro-2,3-dihydro-furo[2,3-c]pyridin-2-yl)-piperidine-1-carboxylic acid tert-butyl ester
A mixture of 4-[2-(5-bromo-2-chloro-pyridin-4-yl)-1-hydroxy-ethyl]-piperidine-1-carboxylic acid tert-butyl ester (11.60 g), palladium acetate (0.50 g), racemic 2-(di-tert-butylphosphino)-1,1′-binapthyl (1.00 g), cesium carbonate (14.00 g), and toluene (150 mL) is stirred at 110° C. under argon atmosphere for 5 h. After cooling to room temperature, ethyl acetate and water are added. The organic phase is separated, washed with brine, dried (MgSO4), and concentrated. The residue is chromatographed on silica gel (cyclohexane/ethyl acetate 70:30→50:50) to give the title compound. Mass spectrum (ESI+): m/z=339/341 (Cl) [M+H]+.

reactant | 4-[2-(5-bromo-2-chloro-pyridin-4-yl)-1-hydroxy-ethyl]-piperidine-1-carboxylic acid tert-butyl ester | 11.60 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(CC1=CC(=NC=C1Br)Cl)O | C17H24BrClN2O3
reactant | racemic 2-(di-tert-butylphosphino)-1,1′-binapthyl | 1.00 g | C(C)(C)(C)P(C1=C(C2=CC=CC=C2C=C1)C1=CC=CC2=CC=CC=C12)C(C)(C)C | C28H31P
reactant | cesium carbonate | 14.00 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium acetate | 0.50 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(5-Chloro-2,3-dihydro-furo[2,3-c]pyridin-2-yl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1CC=2C(=CN=C(C2)Cl)O1 | C17H23ClN2O3
